US06576766B1
(b) 3-(3-Diethoxyphosphoryl-4-vinyl-phenyl)propionic Acid Methyl Ester
3-(3-(diethoxyphosphoryl-4-trifluoromethanesulfonyloxy-pheny)-propionic acid methyl ester (1 g, 223 mmol) was dissolved in dry dioxane 25 mL together with vinyl tributyltin (0.67 mL, 229 mmol), LiCl (283 mg, 6.7 mmol), Pd(PPh3)2Cl2 (47 mg, 0.067 mmol) and a crystal of 2,6-di-tert-butyl-4-methylphenol. Reaction mixture was degassed with Argon and heated to 98° C. and stirred for 2 hrs. Reaction mixture was cooled to rt and diluted with excess ether and 10 mL saturated aqueous KF solution and stirred at rt overnight. The reaction mixture was filtered through celite and separated organic layer was washed with 1 N HCl, brine, dried Na2SO4 and concentrated. Brownish oil was purified by flash column chromatography (EtOAc/hexane 90:10, Rf=0.50) to give an oil 470 mg (yield 65%).

reactant | 3-(diethoxyphosphoryl-4-trifluoromethanesulfonyloxy-pheny)-propionic acid methyl ester | 223 mmol, 1 g | COC(CCC1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)P(=O)(OCC)OCC)=O | C15H20F3O8PS
reactant | vinyl tributyltin | 229 mmol, 0.67 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | LiCl | 6.7 mmol, 283 mg | [Li+].[Cl-]
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | KF | 10 mL | [F-].[K+]
catalyst | Pd(PPh3)2Cl2 | 0.067 mmol, 47 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(3-Diethoxyphosphoryl-4-vinyl-phenyl)propionic Acid Methyl Ester | 470 mg, yield 65% | COC(CCC1=CC(=C(C=C1)C=C)P(=O)(OCC)OCC)=O | C16H23O5P
